* D:\LTSpice\Opamp RC Phase shift Oscillator2.asc
XU1 0 N001 Vp Vn N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N001 N003 6.5k
C1 N004 N002 0.1µ
C2 N005 N004 0.1µ
C3 N003 N005 0.1µ
R2 N002 N001 240k
R3 N004 0 650
R4 N005 0 650
R5 N003 0 650
V1 Vp 0 15
V2 0 Vn 15
.tran 100ms uic
.lib UniversalOpamps2.sub
.backanno
.end
